US07273868B2
A mixture of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-2,6-dichloropyrimidine (prepared in the above (2)) 150 mg, a 1.0M solution of benzylthiol in dimethylformamide 0.40 ml, triethylamine 40 mg and dimethylformamide 2.5 ml is stirred at room temperature for 2.5 days. The reaction mixture is diluted with water and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo. The residue is separated with preparative thin-layer chromatography (solvent; hexane:chloroform:ethyl acetate=30:30:4) and crystallized from isopropyl ether to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-benzylthiopyrimidine as a colorless crystalline powder 125 mg. mp 89-90° C.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-2,6-dichloropyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)Cl)Cl)C=CC1OC | C14H12Cl3N3O3
reactant | benzylthiol | C1=CC=C(C=C1)CS | C7H8S
reactant | triethylamine | 40 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 0.40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-chloro-2-benzylthiopyrimidine | 125 mg | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)Cl)SCC2=CC=CC=C2)C=CC1OC | C21H19Cl2N3O3S
